US07279581B2
a. (4-[1,2,4]Triazol-1-ylmethylphenyl)hydrazine hydrochloride
To a solution of 1.5 g (7.1 mmoles) of 4-(1,2,4-triazol-1-ylmethyl)phenylamine hydrochloride in 3.75 ml of water and 6.3 ml of concentrated HCl, cooled to 0° C., was added slowly a solution of 0.5 g (7.2 mmoles) of sodium nitrite in 2.6 ml of water, keeping the temperature below 0° C. The mixture was stirred at this temperature for 15 minutes. Once this time had elapsed the solution of the diazonium salt was added rapidly to a solution of 5.37 g (42.6 mmoles) of sodium sulphite in 19 ml of water precooled to 0° C. under nitrogen atmosphere. The red solution was stirred at 0° C. for 10 minutes and then left to reach 65° C. in 1 hour. It was stirred at 65° C. for 30 minutes, and 5 ml of concentrated HCl were then added. The mixture was stirred at the same temperature under nitrogen atmosphere for 3 hours and then left to cool to room temperature.

reactant | 4-(1,2,4-triazol-1-ylmethyl)phenylamine hydrochloride | 7.1 mmoles, 1.5 g | Cl.N1(N=CN=C1)CC1=CC=C(C=C1)N
reactant | sodium nitrite | 7.2 mmoles, 0.5 g | N(=O)[O-].[Na+]
reactant | sodium sulphite | 42.6 mmoles, 5.37 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 3.75 ml | O | H2O
solvent | HCl | 6.3 ml | Cl | ClH
solvent | water | 2.6 ml | O | H2O
solvent | water | 19 ml | O | H2O
solvent | HCl | 5 ml | Cl | ClH
product | (4-[1,2,4]Triazol-1-ylmethylphenyl)hydrazine hydrochloride | Cl.N1(N=CN=C1)CC1=CC=C(C=C1)NN | InChI=1S/C9H11N5.ClH/c10-13-9-3-1-8(2-4-9)5-14-7-11-6-12-14;/h1-4,6-7,13H,5,10H2;1H
